US04575378
Preparation of 3-nitro-4-(n-propyl)aminophenol
34.7 g (0.2 mole) of 4-chloro-3-nitrophenol, 21 g of sodium carbonate, 0.1 g of copper-I chloride and 20 g of n-propylamine are heated in a bath from room temperature up to a bath temperature of 120° C. After 5 hours, the reaction mixture is taken up in water, acidified (pH 2) with hydrochloric acid and extracted 3 times with ethyl acetate in order to remove unreacted starting material. After neutralisation, the aqueous phase is again extracted 3 times with ethyl acetate. After drying and concentration, these extracts give the desired product in the form of a red oil.

reactant | 4-chloro-3-nitrophenol | 0.2 mole, 34.7 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | sodium carbonate | 21 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | n-propylamine | 20 g | C(CC)N | C3H9N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-nitro-4-(n-propyl)aminophenol | [N+](=O)([O-])C=1C=C(C=CC1NCCC)O | C9H12N2O3
